US06949571B2
3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-methylsulfonylaminophenyl)-1,2-dihydropyridin-2-one
Triethylamine (0.2 ml) was added to a solution of 31 mg of 3-(2-cyanophenyl)-5-(2-pyridyl)-1-(3-aminophenyl)-1,2-dihydropyridin-2-one in 2 ml of tetrahydrofuran, 0.1 ml of methanesulfonic acid chloride was dropped thereinto with ice cooling and the mixture was stirred for 10 minutes. To this were added 2 ml of 2N sodium hydroxide, the mixture was stirred at room temperature for 5 minutes and partitioned to ethyl acetate-water, the organic layer was washed with water, dried and concentrated and the residue was purified by a silica gel column chromatography (ethyl acetate-hexane system) to give 38 mg of the title compound as a pale yellow amorphous substance.

reactant | Triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2-cyanophenyl)-5-(2-pyridyl)-1-(3-aminophenyl)-1,2-dihydropyridin-2-one | 31 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC(=CC=C1)N)=O | C23H16N4O
reactant | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
reactant | methanesulfonic acid chloride | 0.1 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-methylsulfonylaminophenyl)-1,2-dihydropyridin-2-one | 38 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC(=CC=C1)NS(=O)(=O)C)=O | C24H18N4O3S
